US04714492
3.32 gms of 1-methyl-2,6-di(4'-chlorophenyl)-4-oxonicotinic acid, 0.39 gms of NaOH and 50 mls of methanol were mixed. Evaporation of the solvent provided 3.4 gms of sodium 1-methyl-2,6-di(4'-chlorophenyl)-4-oxonicotinate as a glass solid.

reactant | 1-methyl-2,6-di(4'-chlorophenyl)-4-oxonicotinic acid | 3.32 gms | CN1C(=C(C(=O)O)C(C=C1C1=CC=C(C=C1)Cl)=O)C1=CC=C(C=C1)Cl | C19H13Cl2NO3
reactant | NaOH | 0.39 gms | [OH-].[Na+]
solvent | methanol | 50 mls | CO | CH4O
product | sodium 1-methyl-2,6-di(4'-chlorophenyl)-4-oxonicotinate | 3.4 gms | CN1C(=C(C(=O)[O-])C(C=C1C1=CC=C(C=C1)Cl)=O)C1=CC=C(C=C1)Cl.[Na+] | InChI=1S/C19H13Cl2NO3.Na/c1-22-15(11-2-6-13(20)7-3-11)10-16(23)17(19(24)25)18(22)12-4-8-14(21)9-5-12;/h2-10H,1H3,(H,24,25);/q;+1/p-1
